US05538988
A mixture of ethyl 3-[3-(1,2,3,4-tetrahydronaphthalen-2-yl)-2-thioxo-2,3-dihydro-1H-imidazol-1-yl]propionate (0.5. g, 1.5 mmol), prepared as in Example 34, and N,N-dimethylmethyleneammonium chloride (0.17 g, 1.8 mmol) in 7 mL of DMF was heated at 80° C. under nitrogen for 16 hours. The mixture then was partitioned between saturated sodium bicarbonate solution and ethyl acetate. The organic layer was separated, washed with brine, dried (NaSO4), filtered and concentrated. The residue was purified by column chromatography on silica gel eluting with ethyl acetate/hexane to give ethyl 3-[3-(1,2,3,4-tetrahydronaphthalen-2-yl)-4-dimethylaminomethyl-2-thioxo-2,3-dihydro-1H-imidazol-1-yl]-propionate (277 mg, 0.7 mmol), m.p. 128°-130° C.

reactant | ethyl 3-[3-(1,2,3,4-tetrahydronaphthalen-2-yl)-2-thioxo-2,3-dihydro-1H-imidazol-1-yl]propionate | 1.5 mmol | C1C(CCC2=CC=CC=C12)N1C(N(C=C1)CCC(=O)OCC)=S | C18H22N2O2S
reactant | N,N-dimethylmethyleneammonium chloride | 1.8 mmol, 0.17 g | [Cl-].CC=[N+]=CC
reactant | DMF | 7 mL | CN(C)C=O | C3H7NO
product | ethyl 3-[3-(1,2,3,4-tetrahydronaphthalen-2-yl)-4-dimethylaminomethyl-2-thioxo-2,3-dihydro-1H-imidazol-1-yl]-propionate | 0.7 mmol, 277 mg | C1C(CCC2=CC=CC=C12)N1C(N(C=C1CN(C)C)CCC(=O)OCC)=S | C21H29N3O2S
